US04613463
17α-hydroxy-20-phenoxypregna-4,9(11),20-trien-3-one (4.05 grams, 10 mmoles) is slurried in a 250 ml round bottom flask, in an aqueous pH 8 potassium phosphate buffer (20 ml, 0.05M in PO4≡) prepared as in Example 1. Tetra n-butylammonium bromide (0.64 grams, 2.0 mmole), acetone (20 ml), methylene chloride (40 ml) are added and the mixture cooled to 15° C. 18.42 grams, 30 mmoles of OXONE® (2KHSO5.KHSO4.K2SO4) is dissolved in 62 ml of water filtered and placed in an addition funnel. The OXONE solution is added dropwise with stirring while maintaining the pH between 6.8 and 7.2 with 30% potassium hydroxide. The reaction is run to completion. Fifty ml of water is added and the reaction mixture is filtered. The filtered solids are rinsed with methylene chloride and water, the layers are separated and the methylene chloride layer is filtered thru a solka flok filter. Two ml of glacial acetic acid are added and the mixture is stirred for 1 hour to yield 2.5 grams of 17α-hydroxy-21 -acetoxy-pregna-4,9(11)-diene-3,20-dione at room temperature.

reactant | 17α-hydroxy-20-phenoxypregna-4,9(11),20-trien-3-one | 10 mmoles, 4.05 grams | O[C@]1(C(=C)OC2=CC=CC=C2)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C27H32O3
reactant | potassium phosphate | 0.05M, 20 ml, pH 8 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | OXONE | 30 mmoles, 18.42 grams | OOS(=O)[O-].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | Tetra n-butylammonium bromide | 2.0 mmole, 0.64 grams | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 62 ml | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 17α-hydroxy-21 -acetoxy-pregna-4,9(11)-diene-3,20-dione | 2.5 grams | O[C@]1(C(COC(C)=O)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C23H30O5
